US07279481B2
2-Methyl-5-quinolinyl trifluoromethanesulfonate (D1)
A solution of 2-methyl-quinolin-5-ol (2.5 g; 1 eq) in dichloromethane (25 mL) and pyridine (6.4 mL; 5 eq) was cooled to 0° C. and trifluoromethanesulfonic anhydride (4.2 mL; 1.6 eq) was added dropwise over 10 minutes. The reaction mixture was stirred under an inert atmosphere at r.t. for 1 h, then poured into water (20 mL) and extracted into ethyl acetate (3×15 mL). The organic layers were combined, dried over Na2SO4 and concentrated under reduced pressure. The crude was purified by flash chromatography, eluting with ethyl acetate/cyclohexane (4/6) affording the title compound in 92% yield (4.2 g).

reactant | 2-methyl-quinolin-5-ol | 2.5 g, 1 eq | CC1=NC=2C=CC=C(C2C=C1)O | C10H9NO
reactant | pyridine | 6.4 mL, 5 eq | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 4.2 mL, 1.6 eq | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 20 mL | O | H2O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-Methyl-5-quinolinyl trifluoromethanesulfonate | 92% yield | FC(S(=O)(=O)OC1=C2C=CC(=NC2=CC=C1)C)(F)F | C11H8F3NO3S
